US06174887B1
5-Chloro-2,4-dihydroxy-3-methylbenzoic acid
To a solution of 2,4-dihydroxy-3-methylbenzoic acid methyl ester (9.9 g) in ethyl acetate (100 ml) was added tert-butyl hypochlorite (12.3 ml) under ice-cooling. After stirring for 2 hours, hexane (200 ml) was added, and the mixture was cooled with ice to allow precipitation of crystals. The crystals were collected by filtration, and dissolved in a mixed solvent of methanol (20 ml) and tetrahydrofuran (THF, 20 ml). A 1M lithium hydroxide solution (40 ml) was added to the solution, and the mixture was refluxed under heating for 18 hours. The reaction mixture was concentrated, and a 10% aqueous citric acid solution was added to the residue, which was followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure to give the title compound (4.14 g, yield 37%).

reactant | 2,4-dihydroxy-3-methylbenzoic acid methyl ester | 9.9 g | COC(C1=C(C(=C(C=C1)O)C)O)=O | C9H10O4
reactant | tert-butyl hypochlorite | 12.3 ml | ClOC(C)(C)C | C4H9ClO
reactant | hexane | 200 ml | CCCCCC | C6H14
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-2,4-dihydroxy-3-methylbenzoic acid | 4.14 g, yield 37% | ClC=1C(=C(C(=C(C(=O)O)C1)O)C)O | C8H7ClO4
